US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-(methoxymethyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Methyl iodide (25 μl) was added to a solution of tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-[(dimethylamino)methyl]-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (112 mg) in acetone (5 ml), and the resulting mixture was stirred overnight in a sealed tube at room temperature. The reaction solution was concentrated under reduced pressure, and to a solution of the resulting residue in methanol (2 ml) was added 28% methanol methoxide (2 ml), followed by stirring with heating at 60° C. for 4 hours. The methanol was distilled off under reduced pressure and the residue was adjusted to pH 2 with an aqueous potassium hydrogensulfate solution and extracted with ethyl acetate (100 ml). The organic layer was washed with a 10% aqueous potassium hydrogensulfate solution and a saturated aqueous sodium chloride solution, dried over sodium sulfate and then filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a thin-layer silica gel column chromatography (hexane/ethyl acetate=1/5) to obtain the title compound (26 mg).

reactant | Methyl iodide | 25 μl | CI | CH3I
reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-[(dimethylamino)methyl]-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 112 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)CN(C)C)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C28H39ClN6O4
reactant | acetone | 5 ml | CC(=O)C | C3H6O
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-(methoxymethyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 26 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)COC)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C27H36ClN5O5
